US05834506
3-[2-(4-Benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid methyl ester
A solution of 3-[2-(4-benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid from Example RRRR (10.1 g, 29.5 mmol), MeOH (300 mL), and H2 SO4 (0.2 mL) was refluxed for 3 days. The reaction was stripped to dryness and the product was partitioned between ethyl acetate and 5% NaHCO3. The solution was dried (MgSO4), and concentrated to give the title compound.

reactant | 3-[2-(4-benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(CC(=O)O)(C(C)C)O | C21H26O4
reactant | MeOH | 300 mL | CO | CH4O
product | 3-[2-(4-Benzyloxy-phenyl)-ethyl]-3-hydroxy-4-methyl-pentanoic acid methyl ester | COC(CC(C(C)C)(O)CCC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C22H28O4
